US04510085
t-butoxycarbonyl-N-ethylphenylalanine ethyl ester
To a mixture of 2.65 g (10 mmole) of Boc-Phe in 50 ml of cold (ca. -78°), dry tetrahydrofuran was added 12 ml (ca. 22 mmole) of 1.9M t-butyllithium. After thirty minutes, the mixture was allowed to warm to -20° and then to react with 4.2 g (22 mmole) of triethyloxonium fluoborate. After thirty minutes, the mixture was allowed to warm to 0° and then poured into water and extracted with dichloromethane. The organic extract was washed sequentially with portions of 5% aqueous sodium bicarbonate and water, dried over sodium sulfate, filtered, and concentrated to dryness. Distillation (ca. 130°-200°) afforded an oil that was further purified by column chromatography on silica gel to give the title compound (4.7 g) as an analytically pure solid, m.p. 58°-61.5°.

reactant | Boc-Phe | 10 mmole, 2.65 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | t-butyllithium | ca. 22 mmole, 1.9M, 12 ml | C(C)(C)(C)[Li]
reactant | triethyloxonium fluoborate | 22 mmole, 4.2 g | [B-](F)(F)(F)F.CC[O+](CC)CC
solvent | water | O | H2O
product | t-butoxycarbonyl-N-ethylphenylalanine ethyl ester | 4.7 g | C(C)OC([C@@H](N(CC)C(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C18H27NO4
